US06495604B1
Sodium 6-[N-(2,4difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate (0.48 g) was dissolved in water (100 ml) and adjusted at pH 1 to 2 with 1N HCl and then extracted with ethyl acetate (100 ml). The ethyl acetate layer was washed with water (100 ml×2) and dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. The residue was crystallized from diisopropyl ether to obtain 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylic acid (0.44 g) as white powdery crystals.

reactant | Sodium 6-[N-(2,4difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylate | 0.48 g | FC1=C(C=CC(=C1)F)NS(=O)(=O)C1CCCC=C1C(=O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 6-[N-(2,4-difluorophenyl)sulfamoyl]-1-cyclohexene-1-carboxylic acid | 0.44 g | FC1=C(C=CC(=C1)F)NS(=O)(=O)C1CCCC=C1C(=O)O | C13H13F2NO4S
